US05504244
Trans-1,2-cyclohexanedicarboxylic anhydride (6.76 g , 0.044 mole) was heated with 1-phenylheptane (100 ml) and anhydrous aluminum chloride (12.86 g, 0.096 moles) at 100° C. for 1 hour. The reaction mixture was then poured into a mixture of ice water (500 ml) and concentrated hydrochloric acid (50 ml). The product was extracted with ether (2×200 ml) and the extracts dried over magnesium sulfate and filtered. The ether was removed under reduced pressure and the remaining solution chromatographed on silica (hexane and then hexane:ether:acetic acid at 70:30:1) to yield trans-2-(4-heptylbenzoyl) cyclohexane-1-carboxylic acid (7.36 g), m.p. 91°-94° C.

reactant | Trans-1,2-cyclohexanedicarboxylic anhydride | 0.044 mole, 6.76 g | [C@@H]12[C@H](CCCC1)C(=O)OC2=O | C8H10O3
reactant | 1-phenylheptane | 100 ml | C1(=CC=CC=C1)CCCCCCC | C13H20
reactant | aluminum chloride | 0.096 moles, 12.86 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | hydrochloric acid | 50 ml | Cl | ClH
product | trans-2-(4-heptylbenzoyl) cyclohexane-1-carboxylic acid | 7.36 g | C(CCCCCC)C1=CC=C(C(=O)[C@H]2[C@@H](CCCC2)C(=O)O)C=C1 | C21H30O3
